US07601722B2
In an analogous manner to general procedure IV, 1-(2,4-difluorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole2,2-dioxide (3.37 g, 11.9 mmol) was treated with (E)-1,4-dibromobut-2-ene (8.9 g, 41.7 mmol) and cesium carbonate (3.9 g, 11.9 mmol) to give 1-[(2E)-4-bromobut-2-en-1-yl]-3-(2,4-difluorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole2,2-dioxide (3.3 g, 67%) as a clear oil.

reactant | 1-(2,4-difluorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole2,2-dioxide | 11.9 mmol, 3.37 g | FC1=C(C=CC(=C1)F)N1S(NC2=C1C=CC=C2)(=O)=O | C12H8F2N2O2S
reactant | (E)-1,4-dibromobut-2-ene | 41.7 mmol, 8.9 g | BrC\C=C\CBr | C4H6Br2
reactant | cesium carbonate | 11.9 mmol, 3.9 g | C([O-])([O-])=O.[Cs+].[Cs+]
product | 1-[(2E)-4-bromobut-2-en-1-yl]-3-(2,4-difluorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole2,2-dioxide | 3.3 g, 67% | BrC/C=C/CN1S(N(C2=C1C=CC=C2)C2=C(C=C(C=C2)F)F)(=O)=O | C16H13BrF2N2O2S
